US07495103B2
3-Isopropyl-1H-indol-6-ylamine (B-13) was synthesized following the general scheme above starting from 6-nitroindole and isopropyl iodide. Overall yield (17%). HPLC ret. time 2.06 min, 10-99% CH3CN, 5 min run; ESI-MS 175.2 m/z (MH+).

reactant | 6-nitroindole | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | isopropyl iodide | C(C)(C)I | C3H7I
solvent | CH3CN | CC#N | C2H3N
product | 3-Isopropyl-1H-indol-6-ylamine | C(C)(C)C1=CNC2=CC(=CC=C12)N | C11H14N2
